US03935314
2-(1-Benzylbenzimidazolyl)guanidine (3.65g, 0.0143 mol) was dissolved in water (600 ml) containing 5N hydrochloric acid (5.5 ml). The solution was cooled to 0° to 5°C and treated portionwise with sodium nitrite (1.0g) each hour for 3 hours. After a further 4 hours the reaction mixture was filtered and the microcrystals so obtained were heated under reflux in amyl alcohol (15 ml) with ethylenediamine (3 ml) for 6 hours. The cooled reaction mixture was evaporated to dryness. The resulting semi-solid was crystallised from amyl alcohol was then recrystallised from ethanol to yield 2-(1-benzylbenzimidazolyl)amino-2-imidazoline (1.0g) as colourless microcrystals m.p. 165°-166°C.

reactant | 2-(1-Benzylbenzimidazolyl)guanidine | 0.0143 mol, 3.65g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)N=C(N)N | C15H15N5
reactant | hydrochloric acid | 5N, 5.5 ml | Cl | ClH
reactant | sodium nitrite | 1.0g | N(=O)[O-].[Na+]
reactant | ethylenediamine | 3 ml | C(CN)N | C2H8N2
solvent | water | 600 ml | O | H2O
solvent | amyl alcohol | 15 ml | C(CCCC)O | C5H12O
product | 2-(1-benzylbenzimidazolyl)amino-2-imidazoline | 1.0g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=C2)NC=2NCCN2 | C17H17N5
